US07851629B2
4-(2,3-difluorophenyl)-1-propylpiperidine
Preparation according to Example 2: 4-(2,3-difluorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine (3.35 g, 14.1 mmol), methanol (30 ml), palladium on carbon (0.8 g) and hydrochloric acid (1.5 ml, conc). Yield: 1.29 g (38%). The amine was converted to the hydrochloric acid salt and recrystallized from ethanol/diethyl ether: M.p. 237-238° C. MS m/z (relative intensity, 70 eV) 239 (M+, 4), 211 (13), 210 (bp), 127 (20) 70 (38).

reactant | 4-(2,3-difluorophenyl)-1-propyl-1,2,3,6-tetrahydropyridine | 14.1 mmol, 3.35 g | FC1=C(C=CC=C1F)C=1CCN(CC1)CCC | C14H17F2N
reactant | hydrochloric acid | 1.5 ml | Cl | ClH
catalyst | palladium on carbon | 0.8 g | [Pd] | Pd
solvent | methanol | 30 ml | CO | CH4O
product | 4-(2,3-difluorophenyl)-1-propylpiperidine | FC1=C(C=CC=C1F)C1CCN(CC1)CCC | C14H19F2N
